US06281243B1
3-[(2-Methoxy-1-naphthalenyl)oxy]-azetidine hydrochloride
3-[(2-(Methoxymethyl)-1-naphthalenyl)oxy]-azetidine hydrochloride, mp 127° C. starting from 1-(diphenylmethyl)-3-[(2-(methoxymethyl)-1-naphtalenyl)oxy]-azetidine.

reactant | 3-[(2-(Methoxymethyl)-1-naphthalenyl)oxy]-azetidine hydrochloride | Cl.COCC1=C(C2=CC=CC=C2C=C1)OC1CNC1
reactant | 1-(diphenylmethyl)-3-[(2-(methoxymethyl)-1-naphtalenyl)oxy]-azetidine | C1(=CC=CC=C1)C(N1CC(C1)OC1=C(C=CC2=CC=CC=C12)COC)C1=CC=CC=C1 | C28H27NO2
product | 3-[(2-Methoxy-1-naphthalenyl)oxy]-azetidine hydrochloride | Cl.COC1=C(C2=CC=CC=C2C=C1)OC1CNC1 | InChI=1S/C14H15NO2.ClH/c1-16-13-7-6-10-4-2-3-5-12(10)14(13)17-11-8-15-9-11;/h2-7,11,15H,8-9H2,1H3;1H
